US07618985B2
m-Chloroperbenzoic acid (1.4 g, 75%) was added in portions to a stirred solution of 5-bromo-6-methoxyisoquinoline (12 g, 5.04 mmol) in dichloromethane (12 ml). The mixture was stirred for 1 h then further dichloromethane (10 ml) added and the mixture stirred for an additional 2 h. Methanol (12 ml) was added and the mixture concentrated in vacuo to ˜9 ml, then 1M hydrochloric acid in diethyl ether (10 ml) was added. The mixture was diluted with ether and filtered, the precipitated solid was washed with diethyl ether and dried in vacuo to give crude 5-bromo-6-methoxyisoquinoline-N-oxide hydrochloride (1.22 g).

reactant | m-Chloroperbenzoic acid | 1.4 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 5-bromo-6-methoxyisoquinoline | 5.04 mmol, 12 g | BrC1=C2C=CN=CC2=CC=C1OC | C10H8BrNO
reactant | Methanol | 12 ml | CO | CH4O
solvent | dichloromethane | 12 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 5-bromo-6-methoxyisoquinoline-N-oxide hydrochloride | 1.22 g | Cl.BrC1=C2C=C[N+](=CC2=CC=C1OC)[O-] | InChI=1S/C10H8BrNO2.ClH/c1-14-9-3-2-7-6-12(13)5-4-8(7)10(9)11;/h2-6H,1H3;1H
